US08383821B2
3′-(((1-Methyl-4-phenylpiperidin-4-yl)methoxy)methyl)-5′-(trifluoromethyl)biphenyl-4-carbonitrile.
3′-(((4-Phenylpiperidin-4-yl)methoxy)methyl)-5′-(trifluoromethyl)biphenyl-4-carbonitrile (18.3 mg, 0.04 mmol) and formaldehyde (37 wt. % solution in water, 86.4 μL, 3.22 mmol) were combined in acetonitrile (1.0 mL) and cooled to 0° C. The reaction was treated with sodium cyanoborohydride (12.6 mg, 0.2 mmol) and a few drops of acetic acid. The reaction was stirred at 0° C. for 30 min and at room temperature for 1 h. The solvent was removed in vacuo and the resulting crude mixture passed through a strong cation exchange column. After washing the column with several volumes of methanol, the product was eluted by washing the column with 2 M ammonia in methanol. The solvents were evaporated to afford 12.1 mg (65%). 1H-NMR (CDCl3, 500 MHz) δ 7.74-7.76 (m, 2H), 7.66 (s, 1H), 7.58-7.60 (m, 2H), 7.44 (s, 1H), 7.41 (s, 1H), 7.36-7.38 (m, 2H), 7.30-7.33 (m, 2H), 7.18-7.21 (m, 1H), 4.45 (s, 2H), 3.48 (s, 2H), 2.58-2.60 (m, 2H), 2.17-2.28 (m, 4H), 2.21 (s, 3H), 1.98-2.08 (m, 2H). Mass spec.: 465.11 (MH)+.

reactant | 3′-(((4-Phenylpiperidin-4-yl)methoxy)methyl)-5′-(trifluoromethyl)biphenyl-4-carbonitrile | 0.04 mmol, 18.3 mg | C1(=CC=CC=C1)C1(CCNCC1)COCC=1C=C(C=C(C1)C(F)(F)F)C1=CC=C(C=C1)C#N | C27H25F3N2O
reactant | formaldehyde | 3.22 mmol, 86.4 μL | C=O | CH2O
reactant | sodium cyanoborohydride | 0.2 mmol, 12.6 mg | C(#N)[BH3-].[Na+]
solvent | acetonitrile | 1.0 mL | C(C)#N | C2H3N
catalyst | acetic acid | a few drops | C(C)(=O)O | C2H4O2
product | 3′-(((1-Methyl-4-phenylpiperidin-4-yl)methoxy)methyl)-5′-(trifluoromethyl)biphenyl-4-carbonitrile | CN1CCC(CC1)(C1=CC=CC=C1)COCC=1C=C(C=C(C1)C(F)(F)F)C1=CC=C(C=C1)C#N | C28H27F3N2O
